US06855719B1
1-(3,5-Dioxapiperidin-1-yl)sulphonyl-4-nitrobenzene
4-Nitrobenzenesulphonamide (2.02 g, 10 mmol) was added to a solution of 1,3,5-trioxane (1.96 g, 20 mmol) in acetic acid (5 ml). The mixture was cooled for 5 minutes ated methanesulphonic acid (10 ml) was added slowly. The mixture was then stirred at 35° C. for 20 minutes, cooled to 0° C., diluted with water and extracted with ethyl acetate. The combined extracts were washed twice with water and twice with 5% aqueous sodium hydrogen carbonate solution, then dried and the volatiles removed by evaporation. The residue was recrystallized from ethanol to give the title compound (955 mg, 35%). NMR: 4.87 (s, 2H), 5.30 (s, 4H), 8.20 (d, 2H), 8.42 (d, 2H).

reactant | 4-Nitrobenzenesulphonamide | 10 mmol, 2.02 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N | C6H6N2O4S
reactant | 1,3,5-trioxane | 20 mmol, 1.96 g | O1COCOC1 | C3H6O3
reactant | methanesulphonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(3,5-Dioxapiperidin-1-yl)sulphonyl-4-nitrobenzene | 955 mg, 35% | N1(COCOC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O6S
